US07981903B2
5-fluoro-4-methyl-2-nitrophenol (2.83 g, 16.5 mmol) was dissolved in N,N-dimethylformamide (25 mL). Potassium carbonate (3.4 g, 25 mmol) and iodomethane (1.2 mL, 20 mmol) were added and the mixture was stirred at room temperature overnight. The mixture was then poured into water and stirred until solids crashed out. The solids were filtered and air dried to give 1-fluoro-2-methyl-5-(methyloxy)-4-nitrobenzene without further purification (2.76 g, 90%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.92 (d, J=8.1 Hz, 1 H), 7.25 (d, J=11.7 Hz, 1 H), 3.89 (s, 3H), 2.19 (d, J=1.5 Hz, 3 H).

reactant | 5-fluoro-4-methyl-2-nitrophenol | 16.5 mmol, 2.83 g | FC=1C(=CC(=C(C1)O)[N+](=O)[O-])C | C7H6FNO3
reactant | Potassium carbonate | 25 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 20 mmol, 1.2 mL | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-fluoro-2-methyl-5-(methyloxy)-4-nitrobenzene | FC1=C(C=C(C(=C1)OC)[N+](=O)[O-])C | C8H8FNO3
